US08530709B2
Preparation of CCl3CF2CHFCF3
A 0.5 inch (12.7 mm) by 40 inch (101.6 cm) plug flow reactor that is packed with Helipack Monel support is heated to 290° C. A 50/50 (molar %) mixture of hexafluoropropene and chloroform is fed into the reactor at about 1.5 g/min. The reactor pressure is maintained at 100 psig. The effluent from the reactor is fed into a distillation column and the unreacted reagents removed by distillation and recycled. The product CCl3CF2CHFCF3 is used in the next reaction.

reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | CCl3CF2CHFCF3 | C(Cl)(Cl)(Cl)C(F)(F)C(F)C(F)(F)F | C4HCl3F6
